US07319152B2
5-(2,4-dichlorophenyl)-3,3-dimethylindan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 2,4-dichlorophenyl boronic acid according to the procedure described in example 21. MS m/z 305; HRMS: calcd for C17H14Cl2O+H+, 305.04944; found (ESI, [M+H]+), 305.0494.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 2,4-dichlorophenyl boronic acid | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
product | 5-(2,4-dichlorophenyl)-3,3-dimethylindan-1-one | ClC1=C(C=CC(=C1)Cl)C=1C=C2C(CC(C2=CC1)=O)(C)C | C17H14Cl2O
